US06677368B2
(3-{3-[1-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetic Acid
[3-(2-Oxo-2,3-dihydro-1H-indol-4-yl)-phenyl]-acetic acid (80.1 mg, 0.3 mmol) was condensed with 3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (66.7 mg, 0.3 mmol) in ethanol to give 75.3 mg of the titled compound.

reactant | [3-(2-Oxo-2,3-dihydro-1H-indol-4-yl)-phenyl]-acetic acid | 0.3 mmol, 80.1 mg | O=C1NC2=CC=CC(=C2C1)C=1C=C(C=CC1)CC(=O)O | C16H13NO3
reactant | 3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 66.7 mg | CC1=C(NC=C1C(=O)N1CCOCC1)C=O | C11H14N2O3
solvent | ethanol | C(C)O | C2H6O
product | (3-{3-[1-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indol-4-yl}-phenyl)-acetic Acid | 75.3 mg | CC1=C(NC=C1C(=O)N1CCOCC1)\C=C\1/C(NC2=CC=CC(=C12)C=1C=C(C=CC1)CC(=O)O)=O | C27H25N3O5
